US08349849B2
(R)-4-(6-(trans-4-tert-Butylcyclohexyloxy)-5-iodoquinazolin-2-yl)-4-methyloxazolidin-2-one
(R)-4-(6-Hydroxy-5-iodo-quinazolin-2-yl)-4-methyl-oxazolidin-2-one (350.0 mg, 0.0009431 mol), methanesulfonic acid 4-tert-butyl-cyclohexyl ester (884.0 mg, 0.003772 mol) and cesium carbonate (921.8 mg, 0.002829 mol) were dissolved in a mixture of tert-butyl alcohol (19.9 mL, 0.208 mol) and 2-butanone (6.6 mL, 0.074 mol). The reaction mixture was heated at 80° C. for 1 hour (MW), an additional methanesulfonic acid 4-tert-butyl-cyclohexyl ester (500 mg) was added, and the mixture was heated at 80° C. for an additional for 1 hour. LC/MS indicated that reaction was completed. Removal of solvents gave a solid mixture, which was treated with DCM and filtered. The filtrate was then washed with water, brine and dried over Na2SO4. The crude mixture was then purified via chromatography (SiO2, 24 gm, 0-100% ethyl acetate/hexanes) to give 451 mg desired product (94%).1H NMR (CHLOROFORM-d) δ: 9.55 (s, 1H), 7.94 (d, J=9.3 Hz, 1H), 7.61 (d, J=9.3 Hz, 1H), 6.07 (s, 1H), 5.16 (d, J=8.8 Hz, 1H), 4.50 (d, J=8.8 Hz, 1H), 4.24-4.42 (m, 1H), 2.24 (d, J=12.0 Hz, 2H), 1.92 (d, J=9.5 Hz, 2H), 1.76 (s, 3H), 1.63 (d, J=11.3 Hz, 1H), 1.22-1.39 (m, 2H), 1.15 (br. s., 2H), 0.81-0.98 (m, 9H). MS (M+1): 510.10.

reactant | (R)-4-(6-Hydroxy-5-iodo-quinazolin-2-yl)-4-methyl-oxazolidin-2-one | 0.0009431 mol, 350.0 mg | OC=1C(=C2C=NC(=NC2=CC1)[C@]1(NC(OC1)=O)C)I | C12H10IN3O3
reactant | methanesulfonic acid 4-tert-butyl-cyclohexyl ester | 0.003772 mol, 884.0 mg | C(C)(C)(C)C1CCC(CC1)OS(=O)(=O)C | C11H22O3S
reactant | cesium carbonate | 0.002829 mol, 921.8 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl alcohol | 0.208 mol, 19.9 mL | C(C)(C)(C)O | C4H10O
reactant | 2-butanone | 0.074 mol, 6.6 mL | CC(CC)=O | C4H8O
reactant | methanesulfonic acid 4-tert-butyl-cyclohexyl ester | 500 mg | C(C)(C)(C)C1CCC(CC1)OS(=O)(=O)C | C11H22O3S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-4-(6-(trans-4-tert-Butylcyclohexyloxy)-5-iodoquinazolin-2-yl)-4-methyloxazolidin-2-one | 451 mg, 94% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C(=C2C=NC(=NC2=CC1)[C@]1(NC(OC1)=O)C)I | C22H28IN3O3
